US06335445B1
10.3) 2,6-bis-(1,1-dimethylethyl)-4-{[4-(4-aminophenyl)-1-piperazinyl]-methyl}-phenol
The experimental protocol used is the same as that described for intermediate 9.2, with 2,6-bis-(1,1-dimethylethyl)-4-{[[4-(4-nitrophenyl)-1-piperazinyl]-carbonyl]-methyl }-phenol replacing the 2,6-bis-(1,1-dimethylethyl)-4-{[4-(4-nitrophenyl)-1-piperazinyl]-carbonyl}-phenol. A pale pink powder is obtained with a yield of 75%. Melting point: 152-154° C.

reactant | 2,6-bis-(1,1-dimethylethyl)-4-{[[4-(4-nitrophenyl)-1-piperazinyl]-carbonyl]-methyl }-phenol | CC(C)(C)C1=C(C(=CC(=C1)CC(=O)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])C(C)(C)C)O | C26H35N3O4
reactant | 2,6-bis-(1,1-dimethylethyl)-4-{[4-(4-nitrophenyl)-1-piperazinyl]-carbonyl}-phenol | CC(C)(C)C1=C(C(=CC(=C1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])C(C)(C)C)O | C25H33N3O4
product | 2,6-bis-(1,1-dimethylethyl)-4-{[4-(4-aminophenyl)-1-piperazinyl]-methyl}-phenol | yield of 75% | CC(C)(C)C1=C(C(=CC(=C1)CN1CCN(CC1)C1=CC=C(C=C1)N)C(C)(C)C)O | C25H37N3O
